US07745438B2
5-(R)-[2-(S)-Amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester
Add 20% palladium hydroxide on carbon (Pearlman's catalyst) (232 mg) to a solution of 5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester (232 mg, 0.31 mmol) in methanol (5 mL). Stir under 1 atmosphere of hydrogen gas at room temperature overnight, filter through a pad of Celite® and concentrate to give the desired compound as a colorless oil which is used directly without further purification (138 mg, 93%).

reactant | 5-(R)-[1-(S)-benzyloxy-2-(S)-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.31 mmol, 232 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CCC1CCCCC1 | C47H58F2N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 232 mg | [OH-].[OH-].[Pd+2]
product | 5-(R)-[2-(S)-Amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)CCC1CCCCC1 | C26H40F2N2O4
